US06384033B1
N-t-Butyl-2,4,5-trifluorobenzamide
The title compound was prepared by the same method as that described in Example 26, using 2,4,5-trifluorobenzoic acid and t-butylamine.

reactant | 2,4,5-trifluorobenzoic acid | FC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F3O2
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
product | N-t-Butyl-2,4,5-trifluorobenzamide | C(C)(C)(C)NC(C1=C(C=C(C(=C1)F)F)F)=O | C11H12F3NO
